US05236952
A suspension of 29.0 g of 2-bromo-4'-hydroxy-3'-methoxy-5'-nitroacetophenone in 700 ml of dry methylene chloride is treated at -20° within 30 minutes with a solution of 125.3 g of boron tribromide in 300 ml of dry methylene chloride. After the addition the mixture is stirred at -20° for a further 1 hour and at room temperature for 16 hours, then evaporated, the residue is treated cautiously with water while cooling with ice and stirred at 50° for 30 minutes. After cooling the mixture is extracted with ether, the ethereal phase is washed with water, dried over sodium sulfate, filtered and evaporated. There is obtained 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone of m.p. 138°-140° (from methylene chloride).

reactant | 2-bromo-4'-hydroxy-3'-methoxy-5'-nitroacetophenone | 29.0 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C9H8BrNO5
reactant | boron tribromide | 125.3 g | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 700 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
